US07622589B2
87A) N-(2-ethyl-4-propionylphenyl)methanesulfonamide
To a solution of 2-amino-1-ethylbenzene (5 ml, 5.0 g, 41 mmol) in pyridine (3.5 ml) and dichloromethane (10 ml), methanesulfonyl chloride (3.2 ml. 4.7 g, 41 mmol) was added dropwise over 10 min at 0° C. The reaction mixture was stirred at rt for 1 hour. After cooling to 0° C., aluminum trichloride (13.8 g, 103 mmol) was added to the reaction mixture carefully. Then propionyl chloride (3.6 ml, 3.8 g, 41 mmol) was added dropwise over 15 min. The reaction mixture was diluted with toluene (25 ml) and poured into 2 M hydrogen chloride aquoues solution (50 ml) under stirring at 0° C. The precipitate solids were filtered, washed with water and dried in vacuo to get a desired product (4.5 g, 43% yield) as yellow solids.

reactant | 2-amino-1-ethylbenzene | 41 mmol, 5 ml, 5.0 g | NC1=C(C=CC=C1)CC | C8H11N
reactant | methanesulfonyl chloride | 41 mmol, 3.2 ml, 4.7 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | aluminum trichloride | 103 mmol, 13.8 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | propionyl chloride | 41 mmol, 3.6 ml, 3.8 g | C(CC)(=O)Cl | C3H5ClO
reactant | hydrogen chloride | 2 M | Cl | ClH
solvent | pyridine | 3.5 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2-ethyl-4-propionylphenyl)methanesulfonamide | 4.5 g, 43% yield | C(C)C1=C(C=CC(=C1)C(CC)=O)NS(=O)(=O)C | C12H17NO3S
